US07696373B2
A solution of cyclohexanone oxime (4.88 g, 43.16 mmol) in methylene chloride (50 mL) was added dropwise with stirring to a solution of LTA (19.14 g, 43.16 mmol) and trifluoroacetic acid (49.22 g, 431.6 mmol) in methylene chloride (200 ml) at 0° C. A blue color gradually appeared with the addition of the oxime. After 1 h at 0° C., the reaction mixture was warmed to room temperature. After 3 h at room temperature, water (50 mL) was added and the organic layer was extracted with water (2×50 mL). The organic layer was dried over Na2SO4, the solvent evaporated and the residue was purified by column chromatography to give 1-Nitroso-1-trifluoroacetoxycyclohexane as a bright blue liquid (30% yield): Rf 0.57 (pentane); 1H NMR (300 MHz, Benzene-d6) δ 1.1-1.9 (m, 10H); 13C NMR (300 MHz, Benzene-d6) δ 19.9 (2CH2), 22.9 (CH2), 27.4 (2CH2), 113.8 (q, J=286.2 Hz), 127.2 (O—C—N), 153.7 (q, J=42.5 Hz); 19F NMR (300 MHz, Benzene-d6) δ −75.7 (CF3).

reactant | cyclohexanone oxime | 43.16 mmol, 4.88 g | C1(CCCCC1)=NO | C6H11NO
reactant | trifluoroacetic acid | 431.6 mmol, 49.22 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 50 mL | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-Nitroso-1-trifluoroacetoxycyclohexane | 30% yield | N(=O)C1(CCCCC1)OC(C(F)(F)F)=O | C8H10F3NO3
